US04282212
1-(N-Cyclohexanecarbonyl-carbamoyl)-2-cyanoaziridine
A solution of 1.41 g. 2-cyanoaziridine in 20 ml. toluene is added dropwise, while stirring, at 20°-30° C. to a solution of 3.2 g. cyclohexanecarbonyl isocyanate in 50 ml. toluene. The reaction mixture is further stirred for 15 minutes at ambient temperature and a certain amount of greasy material which precipitates out is separated off. The clear solution is further stirred for 1 hour at ambient temperature and the crystals which have, in the meantime separated out, are filtered off with suction. They are washed with toluene, triturated with anhydrous diethyl ether and dried in a vacuum for 1 hour at 50° C. There are thus obtained 3.2 g. 1-(N-cyclohexanecarbonyl-carbamoyl)-2-cyanoaziridine; m.p. 142°-144° C. This compound is practically insoluble in water but dissolves in dilute aqueous sodium hydroxide solution.

reactant | 2-cyanoaziridine | C(#N)C1NC1 | C3H4N2
reactant | cyclohexanecarbonyl isocyanate | C1(CCCCC1)C(=O)N=C=O | C8H11NO2
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-(N-Cyclohexanecarbonyl-carbamoyl)-2-cyanoaziridine | C1(CCCCC1)C(=O)NC(=O)N1C(C1)C#N | C11H15N3O2
